US07163928B2
A catalytic amount of ammonium sulfate was added to a mixture of 6-chloropurine (0.56 grams, 3.62 mmol) and hexamethyldisilazane (15 mL), and the mixture was refluxed for 3 hours. The solvent was evaporated under reduced pressure, and the residue was co-evaporated with dry toluene (3×10 mL). The white solid residue was dissolved in dry methylene chloride (40 mL) and 1,2-di-O-acetyl-5-O-benzoyl-3-deoxy-ribofuranose, (1.00 g, 3.10 mmol) was added. After 10 minutes of stirring, trimethylsilyl triflate (0.8 mL) was added, and the solution stirred at room temperature for an additional 3 hours. A solution of cold, saturated sodium bicarbonate was added. After 5 minutes stirring, the organic layer was separated and the aqueous solution extracted with methylene chloride (2×30 mL). The organic layers were combined and dried over sodium sulfate, to give (5S,2R,3R)-2-(6-chloropurin-9-yl)-5-(phenylcarbonyloxymethyl)oxolan-3-yl acetate, which was purified by crystallization from methanol. The mother liquor was chromatographed on a Chromatotron, to provide additional product.

reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 6-chloropurine | 3.62 mmol, 0.56 grams | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | hexamethyldisilazane | 15 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 1,2-di-O-acetyl-5-O-benzoyl-3-deoxy-ribofuranose | 3.10 mmol, 1.00 g | C(C)(=O)OC1[C@H](OC(C)=O)C[C@H](O1)COC(C1=CC=CC=C1)=O | C16H18O7
reactant | trimethylsilyl triflate | 0.8 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (5S,2R,3R)-2-(6-chloropurin-9-yl)-5-(phenylcarbonyloxymethyl)oxolan-3-yl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H](C1)COC(=O)C1=CC=CC=C1)N1C2=NC=NC(=C2N=C1)Cl | C19H17ClN4O5
